US05225431
(b) 3-Chloromethyl-N-methylbenzamide
A solution of 3-chloromethylbenzoyl chloride (7.4 g, Aldrich) in DCM (35 ml) was added dropwise at 0° C. over 30 minutes to a stirred mixture of 30% aqu. methylamine (4.5 ml) and triethylamine (3.6 g) in DCM (50 ml). When addition was complete, the mixture was allowed to warm to room temperature over 1 hour with stirring. Further methylamine (0.5 ml) was added and the mixture stirred for a further 10 minutes, then washed with water, 1N aqu. HCl, 1N aqu. NaOH and brine, dried over MgSO4 and evaporated in vacuo to give the desired product as a colourless oil which solidified to a white solid on standing.

reactant | 3-chloromethylbenzoyl chloride | 7.4 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | methylamine | 4.5 ml | CN | CH5N
reactant | triethylamine | 3.6 g | C(C)N(CC)CC | C6H15N
reactant | methylamine | 0.5 ml | CN | CH5N
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloromethyl-N-methylbenzamide | ClCC=1C=C(C(=O)NC)C=CC1 | C9H10ClNO
